US09062092B2
A mixture of crude (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (0.05 mmol) in hydrochloric acid (4 M in 1,4-dioxane, 2 mL) was stirred at room temperature for 1 h. The solvent was evaporated and the residue was co-evaporated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid hydrochloride (0.05 mmol) as an off-white solid and as a 1:1 mixture of diastereoisomers which was used crude in the next reaction. LCMS (m/z) 610.1 [M+H], Tr=1.60 min.

reactant | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid | 0.05 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCCC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | C37H51N5O9
reactant | hydrochloric acid | 4 M, 2 mL | Cl | ClH
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid hydrochloride | 0.05 mmol | Cl.N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCCC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | InChI=1S/C32H43N5O7.ClH/c1-19(2)27(28(38)34-21(4)29(39)37-16-7-8-25(36-37)30(40)41)44-31(42)32(14-5-6-17-43-32)15-13-22-9-10-23-11-12-24(20(3)33)35-26(23)18-22;/h9-13,15,18-21,25,27,36H,5-8,14,16-17,33H2,1-4H3,(H,34,38)(H,40,41);1H/b15-13+;/t20-,21+,25+,27+,32?;/m1./s1
